US08022222B2
A solution of (2-(4-methylthiazol-2-ylamino)pyridin-4-yl)methanol (0.210 g, 0.949 mmol) in THF (5 mL) was added to a solution of Dess-Martin periodinane (0.604 g, 1.42 mmol) in THF (5 mL) at 0° C. The reaction mixture was warmed to room temperature and stirred for 30 minutes, then diluted with ether and 1N NaOH (40 mL). The reaction mixture was stirred for 30 minutes, then extracted with ether, washed with water, brine, dried and concentrated to afford 2-(4-methylthiazol-2-ylamino)isonicotinaldehyde (0.197 g, 94.7% yield) as a yellow wax/powder. The crude product was used in the next step without purification.

reactant | (2-(4-methylthiazol-2-ylamino)pyridin-4-yl)methanol | 0.949 mmol, 0.210 g | CC=1N=C(SC1)NC1=NC=CC(=C1)CO | C10H11N3OS
reactant | Dess-Martin periodinane | 1.42 mmol, 0.604 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | NaOH | 1N, 40 mL | [OH-].[Na+]
product | 2-(4-methylthiazol-2-ylamino)isonicotinaldehyde | 0.197 g, 94.7% yield | CC=1N=C(SC1)NC=1C=C(C=O)C=CN1 | C10H9N3OS
